US04178291
1-[2-(acetylthiomethyl)-5-oxo-6-methylheptanoyl]-L-proline (1.5 g.) is dissolved in cold methanol (10 ml.) and sodium borohydride (0.12 g.) is added. After two hours the reaction mixture is diluted with water (100 ml.) acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer is dried and concentrated to dryness in vacuo to give 1-[2-(acetylthiomethyl)-5-hydroxy-6-methylheptanoyl]-L-proline.

reactant | 1-[2-(acetylthiomethyl)-5-oxo-6-methylheptanoyl]-L-proline | 1.5 g | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CCC(C(C)C)=O | C16H25NO5S
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 1-[2-(acetylthiomethyl)-5-hydroxy-6-methylheptanoyl]-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CCC(C(C)C)O | C16H27NO5S
